US07163958B2
(2R)-7-(Nitrooxy)-4,8-dioxabicyclo(3.3.0)oct-2-yl(2S)-2-(6-methoxy (2-naphthyl))propanoate
To a solution of (2S)-2-(6-methoxy(2-naphthyl))propanoic acid (naproxen, 1 g, 4.43 mmol) and (2S)-7-(nitrooxy)-4,8-dioxabicyclo(3.3.0) octan-2-ol (isosorbide 5-mononitrate, 1 g, 5.21 mmol) in anhydrous dichloromethane (25 mL) were added 1-(3(dimethylamino)propyl)-3-ethylcarbodiimide hydrochloride (EDAC, 1.17 g, 1.4 eq) and a catalytic amount of N,N-dimethylaminopyridine (DMAP) at room temperature under nitrogen atmosphere. The reaction mixture was stirred at room temperature overnight. The reaction mixture was diluted with CH2Cl2 and washed H2O, brine, dried over sodium sulfate, filtered, and the organic extracts were evaporated. The product was purified by column chromatography on silica gel eluting with EtOAc:hexane (3:7 to 1:1) to give the title compound (1.71 g, 97.6% yield) as a white crystalline solid. Mp 112–113° C. 1H NMR (300 MHz, CDCl3) δ 7.67 (m, 3H), 7.37 (m, 1H), 7.14 (m, 2H), 5.26 (m, 2H), 4.78 (t, J=5.2 Hz, 1H), 4.21 (d, J=4.9 Hz, 1H), 4.02–3.77 (m, 5H), 3.92 (s, 3H), 1.56 (d, 3H, J=7.1 Hz); LRMS (APIMS) m/z 404 (MH+).

reactant | (2S)-2-(6-methoxy(2-naphthyl))propanoic acid | 4.43 mmol, 1 g | COC=1C=C2C=CC(=CC2=CC1)[C@@H](C(=O)O)C | C14H14O3
reactant | (2S)-7-(nitrooxy)-4,8-dioxabicyclo(3.3.0) octan-2-ol | 5.21 mmol, 1 g | [N+](=O)([O-])OC1CC2OC[C@@H](C2O1)O | C6H9NO6
reactant | 1-(3(dimethylamino)propyl)-3-ethylcarbodiimide hydrochloride | 1.17 g, 1.4 eq | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (2R)-7-(Nitrooxy)-4,8-dioxabicyclo(3.3.0)oct-2-yl(2S)-2-(6-methoxy (2-naphthyl))propanoate | 1.71 g, 97.6% yield | COC=1C=C2C=CC(=CC2=CC1)[C@@H](C(=O)O[C@H]1C2OC(CC2OC1)O[N+](=O)[O-])C | C20H21NO8
